US08791119B2
To a solution at 65° C. of 40.0 g (112 mmol) of N-tert-butyl-6-chloro-8-cyano-7-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide in 400 ml of methanol and dimethyl sulfoxide (3:2) are added 10.1 ml (118 mmol) of aqueous 35% sodium hydroxide solution and then 19.8 ml (21.8 mmol) of 35-volumes aqueous hydrogen peroxide solution in 4 fractions every 15 minutes. After reaction for 30 minutes at 65° C., the mixture is cooled, partially concentrated under reduced pressure and taken up in dichloromethane. The organic phase is washed with water and is then dried over sodium sulfate, and the solvent is evaporated off under reduced pressure to give a yellow solid, which is crystallized from acetonitrile and then recrystallized from acetonitrile, to give 25.2 g of N2-(tert-butyl)-6-chloro-7-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide in the form of a white powder after filtering off and drying.

reactant | N-tert-butyl-6-chloro-8-cyano-7-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide | 112 mmol, 40.0 g | C(C)(C)(C)NC(=O)N1CC=2N(CC1)C(=C(C2C#N)C2=CC=CC=C2)Cl | C19H21ClN4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | 21.8 mmol, 19.8 ml | OO | H2O2
solvent | methanol | 400 ml | CO | CH4O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | N2-(tert-butyl)-6-chloro-7-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide | 25.2 g | C(C)(C)(C)NC(=O)N1CC=2N(CC1)C(=C(C2C(=O)N)C2=CC=CC=C2)Cl | C19H23ClN4O2
